US07947714B2
A solution of 4-cyano-4-(cyclopropylmethyl)-N-ethylpiperidine-1-sulfonamide (I-9) (83 mg, 0.306 mmol) in ethanol (1 mL) was added to 1M sodium hydroxide in 95% ethanol-water (15 mL) and the solution degassed with nitrogen. Raney Nickel (50% slurry in water) (220 mg) was added and the black suspension shaken under hydrogen pressure (40 psi) at room temperature for 12 h. The catalyst was filtered off and wahed with 95% ethanol-water. The filtrate was evaporated in vacuo then partitioned between water and DCM. The organic phase was separated and the aqueous phase re-extracted with DCM twice. The combined organic phase was dried (MgSO4) and the solvent removed in vacuo to leave 4-aminomethyl-4-(cyclopropylmethyl)-N-ethylpiperidine-1-sulfonamide (I-10) that was used in the next step without further purification. 1H NMR (500 MHz, CD3OD): δ 3.21-3.11 (m, 4 H), 3.02 (q, J=7.2 Hz, 2 H), 2.69 (s, 2 H), 1.63-1.53 (m, 4 H), 1.31 (m, 2 H), 1.15 (t, J=7.2 Hz, 3 H), 0.65 (m, 1 H), 0.48 (t, J=6.4 Hz, 2 H), 0.07 (m, 2 H).

reactant | 4-cyano-4-(cyclopropylmethyl)-N-ethylpiperidine-1-sulfonamide | C(#N)C1(CCN(CC1)S(=O)(=O)NCC)CC1CC1 | C12H21N3O2S
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | ethanol water | 15 mL | C(C)O.O
product | 4-aminomethyl-4-(cyclopropylmethyl)-N-ethylpiperidine-1-sulfonamide | NCC1(CCN(CC1)S(=O)(=O)NCC)CC1CC1 | C12H25N3O2S
